US07491821B2
To a homogeneous solution of L-alanine(5 g, 56.1 mmol) in acetone (90 ml) and 1N NaOH (90 ml) was added 2-fluorobenzoyl chloride (8.9 g, 56.1 mmol) dropwise. Basicity of the reaction was maintained by adding 1N NaOH periodically. After the addition of 2-fluorobenzoyl chloride was completed, the reaction mixture was acidified to pH 2 using 1N HCl. The oil that precipitated out was extracted into EtOAc, which was dried over MgSO4, filtered, and concentrated to yield 2-(2-fluorobenzoylamino)propionic acid (intermediate XXIa, 3.92 g). Upon standing, more crystals of intermediate XXIa (2.3 g) precipitated from the acidic aqueous solution and were collected.

reactant | L-alanine | 56.1 mmol, 5 g | N[C@@H](C)C(=O)O | C3H7NO2
reactant | 2-fluorobenzoyl chloride | 56.1 mmol, 8.9 g | FC1=C(C(=O)Cl)C=CC=C1 | C7H4ClFO
reactant | HCl | 1N | Cl | ClH
solvent | acetone | 90 ml | CC(=O)C | C3H6O
solvent | NaOH | 1N, 90 ml | [OH-].[Na+]
solvent | NaOH | 1N | [OH-].[Na+]
product | 2-(2-fluorobenzoylamino)propionic acid | 3.92 g | FC1=C(C(=O)NC(C(=O)O)C)C=CC=C1 | C10H10FNO3
